US05869500
A suspension of 0.15 mg (0.35 mmol) of 8-[p-(benzyloxy)phenyl]-7-oxo-7H-thieno[2,3-a]quinolizine-10-carboxylic acid in 4 ml of toluene was heated at 50° C. for 4 hours with 0.15 ml (2.1 mmol) of thionyl chloride. After removal of all volatile constituents by distillation the residue was suspended in 5 ml of dioxan, treated with 0.06 g (0.76 mmol) of 2-methoxy-ethylamine and stirred at room temperature for 4 hours. After concentration the residue was taken up in dichloromethane, extracted with water and dried with sodium sulphate. Concentration and washing of the residue with ether gave 0.14 g (74%) of 8-(4-benzyloxy-phenyl)-7-oxo-7H-thieno[2,3-a]quinolizine-10-carboxylic acid (2-methoxy-ethyl)-amide as a yellow solid.

reactant | 8-[p-(benzyloxy)phenyl]-7-oxo-7H-thieno[2,3-a]quinolizine-10-carboxylic acid | 0.35 mmol, 0.15 mg | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C=1C(N2C=CC3=C(C2=C(C1)C(=O)O)SC=C3)=O | C25H17NO4S
reactant | thionyl chloride | 2.1 mmol, 0.15 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 2-methoxy-ethylamine | 0.76 mmol, 0.06 g | COCCN | C3H9NO
solvent | toluene | 4 ml | C1(=CC=CC=C1)C | C7H8
product | 8-(4-benzyloxy-phenyl)-7-oxo-7H-thieno[2,3-a]quinolizine-10-carboxylic acid (2-methoxy-ethyl)-amide | 0.14 g, 74% | COCCNC(=O)C=1C=C(C(N2C=CC3=C(C12)SC=C3)=O)C3=CC=C(C=C3)OCC3=CC=CC=C3 | C28H24N2O4S
